US07176217B2
To a solution of ethyl (1R, 3R, 4R)-5-(tert-butyl)-2-[(S)-1-phenylethyl]-2-azabicyclo [2.2.1]hept-5-ene-3-carboxylate (1.22 g, 3.74 mmol) in ethyl acetate (43 ml) was added 20 wt % Pd(OH)2 (0.578 g), and the mixture was stirred under a hydrogen atmosphere at 45° C. for 62 hours. After a filtration through Celite, the solvent was evaporated. The residue was purified by silica gel column chromatography (1%–5% methanol/chloroform), to give ethyl (1R, 3R, 4S)-5-(tert-butyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate (0.197 g, 23%).

reactant | ethyl (1R, 3R, 4R)-5-(tert-butyl)-2-[(S)-1-phenylethyl]-2-azabicyclo [2.2.1]hept-5-ene-3-carboxylate | 3.74 mmol, 1.22 g | C(C)(C)(C)C=1[C@@H]2[C@@H](N([C@@H](C1)C2)[C@@H](C)C2=CC=CC=C2)C(=O)OCC | C21H29NO2
solvent | ethyl acetate | 43 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 0.578 g | [OH-].[OH-].[Pd+2]
product | ethyl (1R, 3R, 4S)-5-(tert-butyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate | 0.197 g, 23% | C(C)(C)(C)C1[C@H]2[C@@H](N[C@H](C1)C2)C(=O)OCC | C13H23NO2
